data/rdb19/train.csv
rxn,smiles,ea
3662,[C:17]([O:18][C:19](=[O:20])[C:21](=[C:22]([H:27])[H:28])[C:23]([H:29])([H:30])[H:31])([H:24])([H:25])[H:26].[C:1]([C:2]([C:3]([H:4])[C:5]([C:6]([H:14])([H:15])[H:16])([H:12])[H:13])([H:10])[H:11])([H:7])([H:8])[H:9]>>[C:1]([C:2]([C:3]([H:4])([C:5]([C:6]([H:14])([H:15])[H:16])([H:12])[H:13])[C:21]([C:19]([O:18][C:17]([H:24])([H:25])[H:26])=[O:20])([C:22]([H:27])[H:28])[C:23]([H:29])([H:30])[H:31])([H:10])[H:11])([H:7])([H:8])[H:9],19.561662370048
5497,[C:13]([C:14]([C:15]([H:16])[H:17])([O:18][C:19](=[O:20])[C:21]([H:26])([H:27])[H:28])[H:25])([H:22])([H:23])[H:24].[C:1]([C:2](=[O:3])[O:4][C:5](=[C:6]([H:11])[H:12])[H:10])([H:7])([H:8])[H:9]>>[C:1]([C:2](=[O:3])[O:4][C:5]=[C:6]([H:11])[H:12])([H:7])([H:8])[H:9].[H:10][C:15]([C:14]([C:13]([H:22])([H:23])[H:24])([O:18][C:19](=[O:20])[C:21]([H:26])([H:27])[H:28])[H:25])([H:16])[H:17],25.74446399451699
70,[C:12]([C:13](=[C:14]([H:19])[H:20])[C:15]([H:21])([H:22])[H:23])([H:16])([H:17])[H:18].[C:1]([C:2]([C:3]([H:9])([H:10])[H:11])[C:4]#[N:5])([H:6])([H:7])[H:8]>>[C:1](=[C:2]([C:3]([H:9])([H:10])[H:11])[C:4]#[N:5])([H:7])[H:8].[H:6][C:13]([C:12]([H:16])([H:17])[H:18])([C:14]([H:19])[H:20])[C:15]([H:21])([H:22])[H:23],41.3413027919014
2586,[C:1]([C:2]([O:3][C:4](=[O:5])[C:6]([C:7]([H:17])([H:18])[H:19])([C:8]([H:9])[H:10])[H:16])([H:14])[H:15])([H:11])([H:12])[H:13].[C:20]([C:21]([C:22]([C:23]([H:36])([H:37])[H:38])([c:24]1[c:25]([H:39])[c:26]([H:40])[c:27]([H:41])[c:28]([H:42])[c:29]1[H:43])[H:35])([H:33])[H:34])([H:30])([H:31])[H:32]>>[C:1]([C:2]([O:3][C:4](=[O:5])[C:6]([C:7]([H:17])([H:18])[H:19])=[C:8]([H:9])[H:10])([H:14])[H:15])([H:11])([H:12])[H:13].[C:21]([C:22]([C:23]([H:36])([H:37])[H:38])([c:24]1[c:25]([H:39])[c:26]([H:40])[c:27]([H:41])[c:28]([H:42])[c:29]1[H:43])[H:35])([H:33])[H:34].[H:16][C:20]([H:30])([H:31])[H:32],77.49689546209993
754,[C:19]([C:20]([O:21][C:22](=[O:23])[C:24]([H:25])[C:26]([C:27]([H:35])([H:36])[H:37])([H:33])[H:34])([H:31])[H:32])([H:28])([H:29])[H:30].[C:1]([C:2]([C:3]([C:4]([H:14])([H:15])[H:16])([C:5](=[O:6])[N:7]([H:17])[H:18])[H:13])([H:11])[H:12])([H:8])([H:9])[H:10]>>[C:1]([C:2]([C:3]([C:5](=[O:6])[N:7]([H:17])[H:18])[H:13])([H:11])[H:12])([H:8])([H:9])[H:10].[C:4]([H:14])([H:15])([H:16])[C:24]([C:22]([O:21][C:20]([C:19]([H:28])([H:29])[H:30])([H:31])[H:32])=[O:23])([H:25])[C:26]([C:27]([H:35])([H:36])[H:37])([H:33])[H:34],54.23762718652142
1923,[C:11]([C:12]([C:13]([H:14])[H:15])([C:16](=[O:17])[N:18]([H:23])[H:24])[H:22])([H:19])([H:20])[H:21].[N:1]([C:2](=[O:3])[C:4](=[C:5]([H:9])[H:10])[H:8])([H:6])[H:7]>>[C:11]([C:12](=[C:13]([H:14])[H:15])[C:16](=[O:17])[N:18]([H:23])[H:24])([H:19])([H:20])[H:21].[N:1]([C:2]([O:3])([C:4](=[C:5]([H:9])[H:10])[H:8])[H:22])([H:6])[H:7],46.86993377661565
569,[C:3]([C:4]([C:5]([C:6]([H:17])([H:18])[H:19])([O:7][C:8](=[O:9])[C:10]([H:20])([H:21])[H:22])[H:16])([H:14])[H:15])([H:11])([H:12])[H:13].[O:1][H:2]>>[C:3]([C:4]([C:5]([O:7][C:8](=[O:9])[C:10]([H:20])([H:21])[H:22])[H:16])([H:14])[H:15])([H:11])([H:12])[H:13].[O:1]([H:2])[C:6]([H:17])([H:18])[H:19],43.8302703104564
2305,[C:1]([C:2]([H:3])[H:4])([H:5])([H:6])[H:7].[C:8]([O:9][C:10](=[O:11])[C:12](=[C:13]([H:18])[H:19])[C:14]([H:20])([H:21])[H:22])([H:15])([H:16])[H:17]>>[C:1]([C:2]([H:3])([H:4])[H:19])([H:5])([H:6])[H:7].[C:8]([O:9][C:10](=[O:11])[C:12](=[C:13][H:18])[C:14]([H:20])([H:21])[H:22])([H:15])([H:16])[H:17],25.900642393680755
3531,[C:17]([C:18](=[O:19])[O:20][C:21](=[C:22]([H:27])[H:28])[H:26])([H:23])([H:24])[H:25].[C:1]([C:2]([C:3]([C:4]([H:11])([H:12])[H:13])[C:5]([H:14])([H:15])[H:16])([H:9])[H:10])([H:6])([H:7])[H:8]>>[C:18](=[O:19])[O:20][C:21](=[C:22]([H:27])[H:28])[H:26].[C:1]([C:2](=[C:3]([C:4]([H:11])([H:12])[H:13])[C:5]([H:14])([H:15])[H:16])[H:10])([H:6])([H:7])[H:8].[H:9][C:17]([H:23])([H:24])[H:25],80.92047032399569
2467,[C:1]([C:2]([H:3])[H:4])([H:5])([H:6])[H:7].[C:8](=[C:9]([N:10]([C:11](=[O:12])[H:17])[H:16])[H:15])([H:13])[H:14]>>[C:1](=[C:2]([H:3])[H:4])([H:6])[H:7].[H:5][O:12][C:11]([N:10]([C:9](=[C:8]([H:13])[H:14])[H:15])[H:16])[H:17],38.52171425762936
492,[C:1]([O:2][O:3])([H:4])([H:5])[H:6].[C:7]([C:8]([C:9]([C:10]([H:20])([H:21])[H:22])([N:11]([C:12](=[O:13])[H:24])[H:23])[H:19])([H:17])[H:18])([H:14])([H:15])[H:16]>>[C:1]([O:2][O:3][H:16])([H:4])([H:5])[H:6].[C:7]([C:8]([C:9]([C:10]([H:20])([H:21])[H:22])([N:11]([C:12](=[O:13])[H:24])[H:23])[H:19])([H:17])[H:18])([H:14])[H:15],28.644960848847404
753,[C:19]([C:20]([O:21][C:22](=[O:23])[C:24]([H:25])[C:26]([C:27]([H:35])([H:36])[H:37])([H:33])[H:34])([H:31])[H:32])([H:28])([H:29])[H:30].[C:1]([C:2]([C:3]([C:4]([H:14])([H:15])[H:16])([C:5](=[O:6])[N:7]([H:17])[H:18])[H:13])([H:11])[H:12])([H:8])([H:9])[H:10]>>[C:19]([C:20]([O:21][C:22](=[O:23])[C:24]([H:25])=[C:26]([C:27]([H:35])([H:36])[H:37])[H:34])([H:31])[H:32])([H:28])([H:29])[H:30].[C:1]([C:2]([C:3]([C:5](=[O:6])[N:7]([H:17])[H:18])[H:13])([H:11])[H:12])([H:8])([H:9])[H:10].[C:4]([H:14])([H:15])([H:16])[H:33],74.95658476342214
